US04258192
Racemic ethyl 4-methyl-2-piperidinecarboxylate (trans form) was hydrolyzed by boiling with an excess of conc. HCl for 4 hrs. to give 4-methyl-2-piperidinecarboxylic acid HCl. A desalting of the amino acid HCl was carried out by chromatography using H form ion-exchange resin (Daiaion SK-112 manufactured by Mitsubishi Chemical Industries Limited) in usual method to give racemic 4-methyl-2-piperidinecarboxylic acid. To a solution of the racemic amino acid (143.2 g) in boiling 95% ethyl alcohol (2,900 ml) was added L-tartaric acid (150 g). Upon cooling, the precipitated salt (145.9 g) was collected by filtration. The crude crystals were recrystallized from 90% ethyl alcohol (1,000 ml) to give (2R,4R)-4-methyl-2-piperidinecarboxylic acid L-tartaric acid, m.p. 183.9°-185.0° C., [α]D26 =+4.4 (C=10 in H2O), Analysis Calcd. for C11H19NO8 (percent): C, 45.05, H, 6.53, N, 4.77 Found (percent): C, 45.12, H, 6.48, N, 4.70. The absolute configulation of the molecule was established by X-ray analysis of the crystal which is a 1:1 complex of the molecule with L-tartaric acid. The product was chromatographed on 2,000 ml of Diaion SK-112 ion-exchange resin packed in water, washed with water and eluted with 3% ammonium hydroxide solution. The fraction eluted from 4% ammonium hydroxide solution was evaporated to dryness to give (2R,4R)-4-methyl-2-piperidinecarboxylic acid (63.0 g) as powdery crystal. Recrystallization of the product from EtOH-H2O yielded the corresponding amino acid, (2R,4R)-4-methyl-2-piperidinecarboxylic acid, m.p. 275.0°-277.8° C., [α]D18 =-18.0 (C=10 2N-HCl), Analysis Calcd. for C7H13NO2 (percent): C, 58.72, H, 9.15, N, 9.78 Found: C, 58.80, H, 9.09, N, 9.71.

reactant | Racemic ethyl 4-methyl-2-piperidinecarboxylate | CC1CC(NCC1)C(=O)OCC | C9H17NO2
reactant | HCl | Cl | ClH
product | 4-methyl-2-piperidinecarboxylic acid HCl | Cl.CC1CC(NCC1)C(=O)O | InChI=1S/C7H13NO2.ClH/c1-5-2-3-8-6(4-5)7(9)10;/h5-6,8H,2-4H2,1H3,(H,9,10);1H
